US08980913B2
Step 12: 4-Oxobutyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoyl)piperidine-4-carboxylate
To a solution of 3-(1,3-dioxolan-2-yl)propyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoyl)piperidine-4-carboxylate in THF (4.7 mL) was added 2 M aqueous hydrochloric acid (4.7 mL). The reaction mixture was stirred at RT for 4 hours. The reaction mixture was partitioned between saturated sodium hydrogen carbonate and ethyl acetate. The organic phase removed and the aqueous phase was extracted with further ethyl acetate (×2). The combined organic phases were washed with brine, dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was used directly in the next step with no further purification.

reactant | 3-(1,3-dioxolan-2-yl)propyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoyl)piperidine-4-carboxylate | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)N3CCC(CC3)C(=O)OCCCC3OCCO3)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C41H49N3O8
reactant | hydrochloric acid | 2 M, 4.7 mL | Cl | ClH
solvent | THF | 4.7 mL | C1CCOC1 | C4H8O
product | 4-Oxobutyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoyl)piperidine-4-carboxylate | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)N3CCC(CC3)C(=O)OCCCC=O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C39H45N3O7
